US07923450B2
b) 5-Amino-2-(4-methyl-imidazol-1-yl)-benzonitrile
2-(4-Methyl-imidazol-1-yl)-5-nitro-benzonitrile (650 mg, 2.84 mmol) dissolved in ethyl acetate (10 mL) was hydrogenated under an atmosphere of hydrogen at room temperature for 5 hours in the presence of 10% palladium on charcoal (150 mg). The catalyst was filtered off and washed with ethyl acetate. The solvent of the filtrate was evaporated under reduced pressure and dried to yield the title compound (450 mg, 80%) as a yellow solid. MS ISP (m/e): 199.1 (100) [(M+H)+]. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=7.72 (s, 1H), 7.23 (d, 1H), 7.10 (s, 1H), 6.96 (s, 1H), 6.91 (d, 1H), 2.15 (s, 3H).

reactant | 2-(4-Methyl-imidazol-1-yl)-5-nitro-benzonitrile | 2.84 mmol, 650 mg | CC=1N=CN(C1)C1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C11H8N4O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 150 mg | [Pd] | Pd
product | 5-Amino-2-(4-methyl-imidazol-1-yl)-benzonitrile | 450 mg, 80% | NC=1C=CC(=C(C#N)C1)N1C=NC(=C1)C | C11H10N4
